US05631373
2-Chloro-5-fluoro-4-nitrotoluene.
To a stirred solution of 2-chloro-5-fluorotoluene (0.500 g, 3.46 mmol, Lancaster, used as received) in conc. H2SO4 (5.0 mL) at 0° C., KNO3 (0.350 g, 3.46 mmol) was added in one lot. The resulting pale yellow solution was allowed to warm to 28° C. and stirred overnight at 28° C. It was then poured into ice (50 g) and extracted with ether (2×50 mL). The ether was dried over anhydrous Na2SO4, removed under vacuum, and the resulting oil was dried further under vacuum to afford 0.616 g (94%) of the title compound as an oil, which was used as such for the next reaction; 1H NMR (CDCl3): δ2.459 (s, 3H), 7.193 (d, 1H, J1 =11.1 Hz), 8.083 (d, 1H, J1 =6.6 Hz).

reactant | 2-chloro-5-fluorotoluene | 3.46 mmol, 0.500 g | ClC1=C(C=C(C=C1)F)C | C7H6ClF
reactant | KNO3 | 3.46 mmol, 0.350 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 5.0 mL | OS(=O)(=O)O | H2O4S
product | 2-Chloro-5-fluoro-4-nitrotoluene | 0.616 g, 94% | ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5ClFNO2
